US07217723B2
[2-(4-Fluoro-3-methoxyphenyl)ethyl]carbamic acid t-butyl ester
3-(4-Fluoro-3-methoxyphenyl)propionic acid (1.98 g), triethylamine (1.67 mL) and diphenylphosphoryl azide (2.59 mL) in t-butanol (20 mL) were heated at 95 to 100° C. for 5 hours. After cooling the reaction solution, the residue that was obtained upon removing the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (1.59 g) was obtained as a colorless oily matter.

reactant | 3-(4-Fluoro-3-methoxyphenyl)propionic acid | 1.98 g | FC1=C(C=C(C=C1)CCC(=O)O)OC | C10H11FO3
reactant | triethylamine | 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 2.59 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 20 mL | C(C)(C)(C)O | C4H10O
product | [2-(4-Fluoro-3-methoxyphenyl)ethyl]carbamic acid t-butyl ester | 1.59 g | C(C)(C)(C)OC(NCCC1=CC(=C(C=C1)F)OC)=O | C14H20FNO3
